US04916124
Indoloquinoxaline (10.95 g) is dissolved in dry dimethyl sulfoxide (150 ml) under nitrogens and sodium hydride (1.3 g) is added with good stirring at 35° C. After completion of hydrogen gas generation (about 30 minutes), chloroacetonitrile (4.0 g) is dropped in with stirring at 20° C. After 1 day at this temperature water (20 ml) is added and crystals formed of pure 6-cyanomethylindoloquinoxaline (8.9 g) are sucked and washed with methanol followed by water. The mother liquor is poured into a large amount of water and the formed precipitate is dried and purified by chromatography on silica gel with methylene chloride/methanol as eluent. In this manner further 3.0 g of 6-cyanomethyl-6H-indolo(2,3-b)quinoxaline are obtained. The total yield thus is 11.9 g, 92%, mp. 231°-232° C.

reactant | Indoloquinoxaline | 10.95 g | N1=CC=NC2=CC=C3C(=C12)C=1C=CC=CC1N3 | C14H9N3
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | chloroacetonitrile | 4.0 g | ClCC#N | C2H2ClN
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | water | 20 ml | O | H2O
product | 6-cyanomethylindoloquinoxaline | 8.9 g | C(#N)CC=1C=C2N=CC=NC2=C2C1NC=1C=CC=CC12 | C16H10N4
